US09302984B2
2′,4′-Difluoro-N-(cis-4-(2,2,2-trifluoroethylamino)cyclohexyl)biphenyl-4-sulfonamide (ABD864)
A solution of N-(4-(2′,4′-difluorobiphenyl-4-ylsulfonamido)cyclohexyl)-2,2,2-trifluoroacetamide (350 mg, 0.76 mmol) in THF (20 mL) was stirred under argon at room temperature and BH3/THF (1 M, 3.8 mL) was added. The mixture was heated to 50° C. and stirred for 4 hours, after which LCMS analysis indicated the reaction to be proceeding, but significant starting material was present. Further BH3/THF (1 M, 2.5 mL) was added and the mixture was heated at 50° C. overnight. The mixture was then cooled and NH4Cl (sat. aq., 10 mL) was added cautiously, followed by water to dissolve all the solids. The mixture was then extracted with EtOAc (3×20 mL) and the combined extracts were dried over MgSO4. After evaporation of the solvents, the crude material was purified by column chromatography on SiO2 (30% acetone/hexane) affording a viscous pale yellow oil (270 mg, 79%), which LCMS indicated to be only 78% pure and a mixture of diastereomers.

reactant | N-(4-(2′,4′-difluorobiphenyl-4-ylsulfonamido)cyclohexyl)-2,2,2-trifluoroacetamide | 0.76 mmol, 350 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)NC1CCC(CC1)NC(C(F)(F)F)=O | C20H19F5N2O3S
reactant | BH3/THF | 1 M, 3.8 mL | B.C1CCOC1
reactant | BH3/THF | 1 M, 2.5 mL | B.C1CCOC1
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2′,4′-Difluoro-N-(cis-4-(2,2,2-trifluoroethylamino)cyclohexyl)biphenyl-4-sulfonamide | 270 mg, 79% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)N[C@@H]1CC[C@@H](CC1)NCC(F)(F)F | C20H21F5N2O2S
